US09422267B2
To a solution of (4R)-1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-4-methoxypyrrolidine-2-carboxylic acid (3.5 g, 9.11 mmol) in MeOH (20 mL) was added HOBt.H2O (2.27 g, 4.56 mmol), N-methylmorpholine (2 mL, 18.22 mmol) and EDCI.HCl (2.44 g, 12.75 mmol). The reaction mixture was allowed to stir at RT for 1 h. MeOH was removed under reduced pressure and the residue was dissolved in EtOAc (200 mL). The solution was washed with water (10×100 mL) followed by brine (100 mL) and dried over anhydrous sodium sulfate. Removal of EtOAc under reduced pressure afforded (4R)-methyl 1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-4-methoxypyrrolidine-2-carboxylate (3 g).

reactant | (4R)-1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-4-methoxypyrrolidine-2-carboxylic acid | 9.11 mmol, 3.5 g | C1(CC1)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1C(C[C@H](C1)OC)C(=O)O)CCC2 | C19H24N6O3
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 4.56 mmol, 2.27 g | O | H2O
reactant | N-methylmorpholine | 18.22 mmol, 2 mL | CN1CCOCC1 | C5H11NO
reactant | EDCI.HCl | 12.75 mmol, 2.44 g | CCN=C=NCCCN(C)C.Cl
solvent | MeOH | 20 mL | CO | CH4O
product | (4R)-methyl 1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-4-methoxypyrrolidine-2-carboxylate | 3 g | C1(CC1)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1C(C[C@H](C1)OC)C(=O)OC)CCC2 | C20H26N6O3
